US05206400
trans-4-Cyclohexene-1,2-dicarbonyl Dichloride (21).
Freshly distilled fumaryl dichloride (3.7 g; 24 mmol) is dissolved in 10 ml of dry Et2O in an oven dried 20-neck 50 ml round bottom flask, fitted with a gas inlet and dry ice Dewar condenser. The stirred solution is cooled to approximately -50° C. (dry ice/CH3CN). Butadiene (ca. 3 ml) is condensed into the flask and the cooling bath removed. Within 25-30 min the exothermic reaction ceases. After an additional 10 min the excess butadiene and solvent are removed in vacuo to furnish 4.7 g (approx 95%) of the Diels-Alder adduct as a colorless liquid which is used immediately without further purification. IR (neat) 3140 and 1785 cm-1.

reactant | fumaryl dichloride | 24 mmol, 3.7 g | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
solvent | Et2O | 10 ml | CCOCC | C4H10O
product | trans-4-Cyclohexene-1,2-dicarbonyl Dichloride | [C@@H]1([C@@H](CC=CC1)C(=O)Cl)C(=O)Cl | C8H8Cl2O2
